US05565465
N-[3-Methoxy-4-(phenylsulfonyl)phenyl]-3,3,3-trifluoro-2-hydroxy-2-methylpropanamide.
To a stirred, cooled (-20° C.) solution of 3,3,3-trifluoro-2-hydroxy-2-methylpropanoic acid (1.80 g, 11.4 mmol) in N,N-dimethylacetamide (40 mL) was added thionyl chloride (1.36 g, 11.4 mmol) and the mixture stirred at -10° to -15° C. for 1 hour. 3-Methoxy-4-(phenylsulfonyl)benzeneamine (2.00 g, 7.6 mmol) was added in one portion and the reaction mixture stirred at room temperature overnight. The mixture was poured into water and the aqueous solution filtered through a pad of Celite. The Celite was washed with methylene chloride (200 mL), the organic extract dried (MgSO4), and the solvent removed in vacuo to yield a brown oil which was purified by flash column chromatography (10% v/v ethyl acetate/methylene chloride). The resulting white solid (2.52 g, 82%) melted at 202°-204° C. 1H-NMR (250 MHz, d6-DMSO): 1.56 (s, 3H, CH3) 3.87 (s, 3H, OCH3) 7.70-7.54 (m, 6H, aromatic+OH) 7.85-7.88 (m, 2H, aromatic) 7.93 (d, 1H, J=8.7 Hz, aromatic) 10.32 (s, 1H, NH). MS (CI, CH4): 404 (M+1).

reactant | 3,3,3-trifluoro-2-hydroxy-2-methylpropanoic acid | 11.4 mmol, 1.80 g | FC(C(C(=O)O)(C)O)(F)F | C4H5F3O3
reactant | thionyl chloride | 11.4 mmol, 1.36 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-Methoxy-4-(phenylsulfonyl)benzeneamine | 7.6 mmol, 2.00 g | COC=1C=C(C=CC1S(=O)(=O)C1=CC=CC=C1)N | C13H13NO3S
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 40 mL | CN(C(C)=O)C | C4H9NO
product | N-[3-Methoxy-4-(phenylsulfonyl)phenyl]-3,3,3-trifluoro-2-hydroxy-2-methylpropanamide | COC=1C=C(C=CC1S(=O)(=O)C1=CC=CC=C1)NC(C(C(F)(F)F)(C)O)=O | C17H16F3NO5S
